US06358980B1
Ethyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-(3-pyridinylmethyl)-4-piperidine carboxylate was prepared according to the general method as outlined in example 1 (step 6), starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (4 g, 16.9 mmol) and 3-pyridyl methyl [bis(2-chloroethyl)]amine hydrochloride (4.18 g, 18.6 mmol); 370 mg brown oil. Yield 5%; MS: 457.4 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 16.9 mmol, 4 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | 3-pyridyl methyl [bis(2-chloroethyl)]amine hydrochloride | 18.6 mmol, 4.18 g | Cl.N1=CC(=CC=C1)CN(CCCl)CCCl
product | Ethyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-(3-pyridinylmethyl)-4-piperidine carboxylate | Yield 5% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC=1C=NC=CC1)C(=O)OCC | C24H28N2O5S
